US08802679B2
tert-Butyl 4-(2-hydroxyethyl)piperidine-1-carboxylate (500 mg) was dissolved in THF (5 ml), and NaH (174 mg) was added thereto under ice-cooling, and subsequently, ethyl iodide (680 mg) was added thereto, followed by elevating the temperature to room temperature and stirring overnight. To the reaction mixture was added water, followed by extraction with EtOAc. The organic layer was dried over MgSO4 and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (5% to 20% EtOAc/hexane) to obtain tert-butyl 4-(2-ethoxyethyl)piperidine-1-carboxylate (496 mg).

reactant | tert-Butyl 4-(2-hydroxyethyl)piperidine-1-carboxylate | 500 mg | OCCC1CCN(CC1)C(=O)OC(C)(C)C | C12H23NO3
reactant | NaH | 174 mg | [H-].[Na+]
reactant | ethyl iodide | 680 mg | C(C)I | C2H5I
reactant | water | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | tert-butyl 4-(2-ethoxyethyl)piperidine-1-carboxylate | 496 mg | C(C)OCCC1CCN(CC1)C(=O)OC(C)(C)C | C14H27NO3
